US07728025B2
5′-((6-(1-Acetylpyrrolidin-2-yl)-2-pyridin-2-yl-1H-benzimidazol-5-yl)oxy)-2H-1,2′-bipyridin-2-one enantiomer A
0.003 ml of acetic anhydride was added to a chloroform (1 ml) solution of 6.5 mg of 5′-((2-pyridin-2-yl-6-pyrrolidin-2-yl-1H-benzimidazol-5-yl)oxy)-2H-1,2′-bipyridin-2-one enantiomer A obtained in Example 554, and the reaction liquid was stirred at room temperature for 30 minutes. The reaction solvent was evaporated away, and the resulting residue was purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), chloroform/methanol=10/1) to obtain one chiral form of the entitled compound as a white solid.

reactant | acetic anhydride | 0.003 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5′-((2-pyridin-2-yl-6-pyrrolidin-2-yl-1H-benzimidazol-5-yl)oxy)-2H-1,2′-bipyridin-2-one | 6.5 mg | N1=C(C=CC=C1)C1=NC2=C(N1)C=C(C(=C2)OC=2C=CC(=NC2)N2C(C=CC=C2)=O)C2NCCC2 | C26H22N6O2
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | 5′-((6-(1-Acetylpyrrolidin-2-yl)-2-pyridin-2-yl-1H-benzimidazol-5-yl)oxy)-2H-1,2′-bipyridin-2-one | C(C)(=O)N1C(CCC1)C=1C(=CC2=C(NC(=N2)C2=NC=CC=C2)C1)OC=1C=CC(=NC1)N1C(C=CC=C1)=O | C28H24N6O3
